US05589492
Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(4-chlorophenylthio)propanoate
The title compound was prepared as a gum from methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate and 4-chlorothiophenol by a procedure similar to that described in Example 23.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-chloropropanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Cl | C20H21ClN2O4
reactant | 4-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
product | Methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-(4-chlorophenylthio)propanoate | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)SC2=CC=C(C=C2)Cl | C26H25ClN2O4S
